US06376707B1
To a solution of 4-(2-hydroxyethyl)phenol (5 g) in acetone (45 mL) was added anhydrous potassium carbonate (6.5 g) at room temperature, and the mixture was stirred for 30 minutes. Ethyl bromoacetate (4.4 mL) was added dropwise to the reaction mixture at 40-45° C. of internal temperature, and the mixture was stirred at 40° C. for 8 hours. After the insoluble materials were filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate) to give ethyl 2-[4-(2-hydroxyethyl)phenoxy]acetate (5.8 g).

reactant | 4-(2-hydroxyethyl)phenol | 5 g | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl bromoacetate | 4.4 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | ethyl 2-[4-(2-hydroxyethyl)phenoxy]acetate | 5.8 g | OCCC1=CC=C(OCC(=O)OCC)C=C1 | C12H16O4
